Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lisinopril / Statins-Hmg-Coa Reductase Inhibitors / pravastatin
 
Attending: ___
 
Chief Complaint:
Confusion, Tremor, Weakness 
 
Major Surgical or Invasive Procedure:
___ guided liver biopsy

 
History of Present Illness:
 ___ with a PMH of ETOH cirrhosis s/p OLT ___ c/b ESRD from 
calcineurin inhibitors s/p LURT (___) c/b acute cellular 
rejection requiring pheresis ___ who p/w several 
days of confusion, decreased appetite and back pain.  
 Per wife, pt had an ERCP last week where they found stones in 
his CBD. Since then he has become increasingly confused.  
 Pt endorses mid thoracic back and lower back pain since early 
last week. Possibly had a fall at some point, but unclear. Has a 
bruise on his back which is sore.  
 Pt denies fevers/cough, abdominal pain, N/V/D. Pt has been 
taking in limited PO, must be coaxed. Denies urinary symptoms. 
Denies urinary/bowel incontinence. Denies pain/numbess in legs.  


 
Past Medical History:
PMH:  
ESRD, Cryptogenic cirrhosis (?alcohol induced) s/p OLT ___, 
complicated by biliary stricture requiring reoperation; 
hypertension; Dyslipidemia/Hypertriglyceridemia; T2DM; Metabolic 
syndrome; Hyperparathyroidism  

PSH:  
Kidney transplant ___ Orthotopic cadaver liver transplant 
___ Partial left nephrectomy ___ Right colectomy 
___ Left radiocephalic AV fistula ___ Hernia repair 
___ I & D leg abscess; ___ hepaticojejunostomy (side to side) 
with liver bx and umbilical hernia repair ___ Recurrent 
umbilical hernia repair ___
 
Social History:
___
Family History:
Denies family h/o liver or kidney disease.  Father died of CHF.  
Mother living.
 
Physical Exam:
ADMISSION PHYSICAL:
VS:  ___ 1118 Temp: 98.2 PO BP: 112/69 HR: 96 RR: 18 O2 
sat:
90% O2 delivery: RA 
GENERAL: Acute shaking and tremors in bed
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, no JVD
NECK: supple, supraclavicular LN on left very prominent to
palpation
HEART: RRR, S1/S2 normal, no m/g/r appreciated
LUNGS: CTAB although with tachypnea and appears restless 
ABDOMEN: +BS, non-distended, non-tender in all quadrants, no
rebound/guarding, hepatomegaly appreciated about 3 cm below
costal border, surgical scars present
EXTREMITIES: Signficiant varicosities present bilaterally with
erythematous confluent patches on the medial aspects of both 
legs
without superimposed vesicles
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, tremor
present ___
GENTIAL: Scrotal enlargement bilaterally, with solitary vesicles
in a linear pattern down scrotal raphe
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL:
Pupils fixed and dilated, no response to noxious stimuli, no 
respiratory or cardiac sounds appreciated after 30 seconds of 
auscultation.

 
Pertinent Results:
ADMISSION LABS:
___ 06:05PM URINE  HOURS-RANDOM
___ 06:05PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:05PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:05PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:05PM URINE  RBC-0 WBC-3 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 06:05PM URINE  HYALINE-1*
___ 06:05PM URINE  MUCOUS-RARE*
___ 05:41PM   LACTATE-2.1*
___ 03:04PM   ___ PO2-18* PCO2-42 PH-7.40 TOTAL CO2-27 
BASE XS-0
___ 03:04PM   LACTATE-2.8* K+-4.8
___ 02:54PM   GLUCOSE-121* UREA N-121* CREAT-7.4* 
SODIUM-136 POTASSIUM-5.0 CHLORIDE-86* TOTAL CO2-23 ANION GAP-27*
___ 02:54PM   estGFR-Using this
___ 02:54PM   ALT(SGPT)-18 AST(SGOT)-40 ALK PHOS-236* TOT 
BILI-0.6
___ 02:54PM   LIPASE-13
___ 02:54PM   proBNP-6768*
___ 02:54PM   ALBUMIN-2.9* CALCIUM-9.3 PHOSPHATE-13.9* 
MAGNESIUM-2.4
___ 02:54PM   tacroFK-> 60.0
___ 02:54PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 02:54PM   WBC-22.4* RBC-4.32* HGB-12.5* HCT-38.8* 
MCV-90 MCH-28.9 MCHC-32.2 RDW-14.6 RDWSD-47.7*
___ 02:54PM   NEUTS-86.1* LYMPHS-0.8* MONOS-7.9 EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-19.29* AbsLymp-0.18* 
AbsMono-1.78* AbsEos-0.08 AbsBaso-0.08
___ 02:54PM   PLT COUNT-308
___ 02:54PM   ___ PTT-33.6 ___

IMAGING:
___ CXR:
Low lung volumes with bibasilar atelectasis.  No definite 
superimposed acute 
cardiopulmonary process. 

___ RUQUS:
1.  Limited exam as patient could not tolerate the full study.  
Portions of the liver, particularly the left lobe, are 
heterogeneous, coarsened and 
nodular.  Other areas of the liver appear to have a more normal 
appearance.  
Scattered foci of gas are likely secondary to recent ERCP. 
2.  No evidence of common bile duct dilatation. 
3.  No large volume ascites seen on limited views. 

___ CT c/a/p w/o con:
1. No evidence of acute fracture or traumatic organ injury. 
2. Approximately 18.4 x 15.7 cm heterogeneous, hypodense 
ill-defined area in the left hepatic lobe causing expansion and 
distortion of the liver contour is highly worrisome for an 
infiltrative mass lesion such as a posttransplant 
lymphoproliferative disorder.  Recommend nonurgent MRI and/or 
targeted liver biopsy for further evaluation. 
3. Vascular calcifications are seen within the portal venous 
system, 
particularly in the left hepatic lobe. 
4. Opacity in the left lung base likely represents a trace 
pleural effusion 
with overlying atelectasis.  However, superimposed infection 
cannot be 
excluded. 
5. Bridging anterior osteophytes in the thoracic spine are 
consistent with 
DISH. 
6. Moderate multilevel degenerative change, as described above. 
7. Diffuse anasarca. 

___ NCHCT:
No acute intracranial abnormality including no hemorrhage.

___ MRI Liver w/o con:
1. Infiltrative mass involving the medial and lateral segments 
of the left 
hepatic lobe with mild restricted diffusion.  Further 
characterization is 
somewhat limited in the absence of intravenous contrast.  
Additional small 
satellite lesions in the right hepatic lobe.  Differential 
considerations 
include posttransplant lymphoproliferative disease or 
infiltrative 
hepatocellular carcinoma.  The patient has been scheduled for 
transjugular 
liver biopsy. 
2. Thrombus throughout the left portal vein and medial and 
lateral segmental 
branches, uncertain if representing bland or tumor thrombus in 
the absence of 
intravenous contrast. 

___ VQ Scan:
Low likelihood ratio for recent pulmonary embolism.

___ CXR:
Lungs are low volume with bibasilar asymmetric opacity in the 
left could 
represent asymmetric edema.  There is subsegmental atelectasis 
in the left 
lung base.  Cardiomediastinal silhouette is stable.  No 
pneumothorax is seen. 

___ LENIs:
1. No evidence of deep venous thrombosis in the right or left 
lower extremity 
veins. 
2. Mild subcutaneous edema involving bilateral lower 
extremities. 

___ MRI Brain w/o con:
No acute intracranial abnormality.  Specifically, no evidence 
for HSV 
encephalitis. 

___ CXR:
Lung volumes remain very low.  There remains mild cardiomegaly 
with unfolding 
of the thoracic aorta with knob calcifications.  Central 
pulmonary vascular 
congestion has worsened with worsening left-greater-than-right 
hazy and 
reticular opacities, which could represent worsening moderate 
pulmonary edema 
versus a drug reaction.  Platelike atelectasis at the lung bases 
has slightly 
improved.  No other new consolidation is seen.  Pleural 
effusions are tiny, if 
any.  There is no pneumothorax. 

___ ECHO:
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy with a normal cavity
size. There is suboptimal image quality to assess regional left 
ventricular function. Global left ventricular
systolic function is normal. Normal right ventricular cavity 
size. The aortic sinus diameter is normal for gender.
There is a normal descending aorta diameter. The aortic valve 
leaflets (?#) appear structurally normal. There
is no aortic valve stenosis. The mitral leaflets appear 
structurally normal. There is a trivial pericardial effusion.
IMPRESSION: Suboptimal image quality due to patient's request to 
prematurely terminate the study. Mild
symmetric left ventriuclar hypertrophy with normal cavity size 
and global systolic function. Grossly normal
aortic and mitral valve morphology.

___ CXR:
Opacity at the left lung base may be slightly progressed from 
prior exam and 
may represent aspiration versus pneumonia versus atelectasis.  
Platelike 
opacity at the right lung base likely represents atelectasis.  
Low lung 
volumes.  Pulmonary vasculature prominence is likely exacerbated 
by low lung 
volumes.  Cardiac silhouette appears unchanged. 

MICRO (pertinent or positive):
___ BCX 3x: NGTD
___ 9:25 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
___ 12:42 pm Blood (CMV AB)      Source: Venipuncture. 

                            **FINAL REPORT ___

   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 

INTERVAL LABS:
___: EBV DNA, QN PCR <200 copies/mL
___: CA ___ 693  H 
___: SED RATE 33  H 
___: lymphoma panel pending on discharge
___: c diff PCR negative 
___: blood cultures x2 pending
___: urine culture no growth 
___: CRP 238
___: AFP 1.1 
___: proBNP ___rief summary:
==============
___ with a PMH of ETOH cirrhosis s/p OLT ___ c/b ESRD from 
calcineurin inhibitors s/p LURT (___) c/b acute cellular 
rejection requiring pheresis ___ who p/w several 
days of confusion, decreased appetite and back pain.  He was 
found to have an elevated tacrolimus level which was treated 
with phenytoin to increase metabolism by the liver. He was also 
found to have worsening kidney function in addition to a large 
poorly differentiated malignant neoplasm on his liver. After 
multiple goals of care discussions, the wife, ___, moved him 
to ___ care stating that would be most consistent 
with his wishes if he were able to participate. He expired on 
___.

Acute issues:
=============
# ___ care: Mr. ___ presented with confusion, found 
to have tacrolimus toxicity but the work up also revealed an 
approximate 18cm liver mass. Biopsy preliminary results showed 
poorly differentiated malignant neoplasm of unclear origin. 
During his hospital stay, his wife, ___, the HCP, made 
decisions in his stead given his AMS. He also developed 
multifactorial acute kidney injury. Daily goals of care 
discussions were held with his wife. In those conversations, 
___ would say that ___ would have valued his independence 
and ability to enjoy life instead of having more time near the 
end of his life. She also mentioned that when ___ had ESRD, he 
had multiple bad experiences with dialysis. She stated that she 
believed it would be cruel to improve his mental status 
temporarily with dialysis only to tell him he was dying from a 
large cancer on his liver, in addition to the possible 
consequences of dialysis that he had previously experienced. He 
was transitioned to CMO per ___ and on ___, expired 
likely from arrhythmia from ___ abnormalities. 

# Large hepatic mass:
# Abdominal Pain: CT torso revealing left hepatic lobe measuring 
approximately 18.4 x 15.7 cm resulting in expansion and 
distortion of the liver contour. Given inability to give 
contrast and unclear if mass was infiltrative or abscess in 
nature, MRI was done which revealed evidence more consistent 
with infiltrative disease. ___ biopsy of lesion on ___. 
Preliminary pathology results were poorly differentiated 
malignant neoplasm with staining most suggestive of squamous 
cell carcinoma. Goals of care discussion as above. 

# Hypoxemia: Saturation of ___ on RA, with decreased paO2 to 60 
and paCO2 to
28 signifying hyperventilation w/ abnormal A-a grad of 55 on 
___. V/Q scan low probability for PE and negative LENIs, echo 
without signs of right heart strain. CT chest without 
significant parenchymal pathology. ABG with adequate 
respiration. CXR on ___ did show some more pulmonary edema and 
does likely have significant atelectasis from enlarged abdomen, 
likely driver of hypoxemia. Patient was transitioned to CMO. 

# Tacrolimus toxicity:
# Uremia:
# AMS: Tacro levels returned as having been >60 at the time of 
his admission and furthermore >30 during his stay until ___ with 
a level of 28. This likely accounted for his AMS and tremors on 
admission. S/p 4 doses of phenytoin 200mg PO for
CYP450 augmentation to promote tacrolimus clearance. As his 
kidney function worsened and his tacrolimus levels downtrended, 
a likely contributor to his persistent AMS was likely uremia 
with a BUN well above 100. Patient was transitioned to CMO. 

# Hypotension: 
# Leukocytosis: WBC 22 in ED. Pt afebrile at home/ED however c/f 
infection, with
neutrophilic diff. Possible sources include intraabdominal 
(possible abscess), particularly biliary given recent ERCP and 
elevated AP. ___ have progressed to sepsis given low BP on 
floor. Less likely pulmonary though cannot exclude infection 
surrounding L pleural effusion. Unlikely urinary given bland UA. 
Hypotension
resolved w/ NS IVF. Given negative cultures for 48 hours, less 
likely infectious etiology and stopped vanc/ceftaz ___ likely hypotension and leukocytosis likely 
combination of dehydration and systemic inflammation from likely
liver malignancy, pending pathology read however.  

# Scrotal rash: Possible HSV vs contact dermatitis. Erythematous 
inguinal rash
likely tinea cruris. MRI brain w/o evidence of hepatic 
encephalitis. Was treated with valacyclovir and miconazole prior 
to CMO conversation. 

# ETOH cirrhosis: S/p OLT ___. DSA positive (HLA-DQ2, DQ8 5, 
DQ6)against liver. Continued MMF and prednisone while holding 
tacrolimus given supratherapeutic levels. Stopped these 
medications after CMO conversation. 

# ___ on CKD:
# AGMA:
Baseline Cr 1.7 from ___. Cr 7.4 on admission c/f pre-renal 
vs. intrinsic renal etiology (ATN). Low c/f obstruction given no 
hydronephrosis on US. Renal US on admission showed patent 
vasculature and mildly increased resistive indices.
___ likely multifactorial: tacrolimus toxicity, dehydration ___ 
poor PO intake, ATN. Discussion was held regarding dialysis as 
Cr/BUN began to rise again. CMO discussion as above. 

# ALP Elevation: History of recent ERCP with stones in CBD 
noted. No stones/biliary dilation seen on RUQ US or CT torso 
this admission, however pt with evidence of infection see above

# Hyperphosphatemia: Likely secondary hyperPTH. Given sevelemer 
while still taking in POs. 

CHRONIC ISSUES:  
===============  
# Depression: continued citalopram 40 mg QD
# HTN: held amlodipine and metoprolol 
# Normocytic Anemia: History of macrocytic anemia, new MCV of 
90. Baseline Hb ___, presented within baseline. No evidence of 
bleeding during stay. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. Phosphorus 250 mg PO BID 
3. amLODIPine 5 mg PO DAILY 
4. Calcitriol 0.25 mcg PO DAILY 
5. Citalopram 40 mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. Metoprolol Tartrate 25 mg PO BID 
8. Mycophenolate Mofetil 500 mg PO BID 
9. PredniSONE 5 mg PO DAILY 
10. Sodium Bicarbonate 1300 mg PO BID 
11. Tacrolimus 3 mg PO Q12H 

 
Discharge Medications:
Expired
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___